US07678920B2
H) 2-Chloro-5-[2-methyl-3-(methylsulfonimidoyl)propyl]pyridine
To a stirred mixture of 2-chloro-5-[2-methyl-3-(methylsulfinyl)propyl]-pyridine (2.15 g, 9.3 mmol) and sodium azide (1.81 g, 28 mmol) in chloroform (30 mL) cooled in an ice-water bath was added concentrated H2SO4 (6 mL) and the resulting mixture stirred at this temperature for 10 min. The reaction was then heated at 55° C. in an oil-bath for 16 hrs. Upon cooling down, the mixture was diluted with ice-water (70 mL) and the organic layer removed. The aqueous phase was washed with CH2Cl2 (2×30 mL) and the organic phase was discarded. The aqueous phase was made basic by the careful addition of aqueous ammonia whereupon an oil separated, which was extracted with CH2Cl2 (2×30 mL). The combined organic phase was dried over MgSO4 and solvent evaporated to give 2.15 g of the product as a yellowish oil in 94% yield. [M+H]+=247, 249; δ 1.11 (overlapping d, 3H).

reactant | 2-chloro-5-[2-methyl-3-(methylsulfinyl)propyl]-pyridine | 9.3 mmol, 2.15 g | ClC1=NC=C(C=C1)CC(CS(=O)C)C | C10H14ClNOS
reactant | sodium azide | 28 mmol, 1.81 g | [N-]=[N+]=[N-].[Na+]
reactant | H2SO4 | 6 mL | OS(=O)(=O)O | H2O4S
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-5-[2-methyl-3-(methylsulfonimidoyl)propyl]pyridine | 2.15 g, 94% yield | ClC1=NC=C(C=C1)CC(CS(=O)(=N)C)C | C10H15ClN2OS
